US07012075B2
To a solution of methyl 1-[(2-bromophenyl)sulfanyl]cyclohexanecarboxylate (89 mg, in MeOH (3 mL) was added 1 M NaOH (1 mL). The mixture was stirred at room temperature for 2 days, then at 65° C. for 6 h. The mixture was then concentrated and the residue was partitioned between ethyl acetate and 1 M HCl. The organic phase was washed with brine, dried over MgSO4 and concentrated to give 1-[(2-bromophenyl)sulfanyl]cyclohexanecarboxylic acid.

reactant | methyl 1-[(2-bromophenyl)sulfanyl]cyclohexanecarboxylate | BrC1=C(C=CC=C1)SC1(CCCCC1)C(=O)OC | C14H17BrO2S
reactant | NaOH | 1 M, 1 mL | [OH-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | 1-[(2-bromophenyl)sulfanyl]cyclohexanecarboxylic acid | BrC1=C(C=CC=C1)SC1(CCCCC1)C(=O)O | C13H15BrO2S
